Name:  ___      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion, fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with history of diabetes
who is brought in by her son and daughter-in-law with persistent
fevers. The patient's son reports that she was recently in ___ visiting a sister when she developed nausea vomiting
diarrhea and hit her head on the door while walking to the
bathroom. She was hospitalized at ___ where
they found an abnormality on a scan of her head. To his 
knowledge
she was not treated for an infection at that time and discharged
on ___. When he went to get her from ___ he noted her
memory was worse and she was not as communicative as she 
normally
is and although she was not complaining of anything she was
persistently febrile so he brought her to the emergency
department.  
 
Review of OSH records ___ ___:
Presented to their ED with n/v x 3d and fall onvernight with
resultant facial bruising, noted to be hyponatremic (serum Na
107, felt to be related to hypovolemia, chlorthalidone, and head
injury) without neurologic sequelae, admitted to ICU there. 

Discharge labs ___ BMP
133/4.0 | ___ | ___ < 177 Ca 9.5 Mg 2.0 Phos 3.6

In the ED initial vitals were temp 97.7, heart rate 72, blood
pressure 120/51, respiratory rate 18, 98% on room air. However 4
hours after triage she spiked a temperature to 103.0 that was
confirmed rectally and became tachycardic to 107. On initial
evaluation the patient was not in distress but endorsed dysuria
and responded one-word answers. She is alert but oriented only 
to
self. The only notable finding on exam was fading bilateral
orbital ecchymoses.  
 
Labs were notable for hyponatremia with a sodium of 123,
leukocytosis to 19.3 and mild anemia at 10.9 and 32.2 she also
had a grossly positive UA.  

She was given:  
___ 06:08 IVF 1L LR with maintenance LR at 150cc/hr.  
___ 06:14 IV Ketorolac 15 mg  
___ 06:43 IV CefTAZidime 1 g  
___ 08:46 SC Insulin 4 Units  
___ 08:54 IV Vancomycin 750 mg (___)  
___ 09:52 PO Acetaminophen 1000 mg  
___ 14:38 SC Insulin 6 Units  

CT head was notable for: A 5 x 4.5 x 3.5 cm hypodense cystic 
(CSF
density) lesion at the cerebral midline (between the lat
ventricles) is most consistent with a prominent cavum velum
interpositum (a developmental anomaly). 

NCHCT from previous admission at ___:
No acute intraparenchymal findings. Ventriculomegaly at least in
part due to the presence of a 6 cm arachnoid cyst. Further
evaluation with MRI is warranted. Periventricular low 
attenuation
which could have several possible etiologies including chronic
microangiopathic process or less likely transependymal flow of
CSF. Cortical sulcal prominence. 

CXR read as "No pneumonia. Possible, acute bronchitis." 

She was admitted to medicine for further workup.  

Upon arrival to the floor, patient seen and evaluated at bedside
by the ___ team with the help of ___ language
interpreter ___. Two of her sons, her daughter-in-law, and
two grandsons were at the bedside. Patient stated she was 
feeling
well without complaints. She was oriented to person and place 
but
not to time. She could not explain why she was in the hospital.  


 
Past Medical History:
 - T2DM  
 - HTN  
 
Social History:
___
Family History:
she is not aware of family history
 
Physical Exam:
ADMISSION EXAM
Vitals: T 97.6, BP 149/73, HR 64, RR 18, O2 97% on room air 
General: alert, oriented to person and place but not date/year,
no acute distress  
Eyes: PERRL, EOMI  
Resp: Good air entry bilaterally. Crackles in left lower lung
field. 
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding  
MSK: warm, well perfused, absent DP pulses bilaterally, no
peripheral edema  
Neuro: Good grip strength bilaterally. Moving lower extremities
spontaneously.  

DISCHARGE EXAM
___ 1145 Temp: 97.1 PO BP: 122/64 HR: 62 RR: 18 O2 sat: 98%
O2 delivery: Ra FSBG: 296 
General: Comfortable, in NAD
HEENT: NC/AT, PERRL, EOMI
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, or
rhonchi
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-tender, non-distended, normoactive bowel sounds, 
no
e/o organomegaly
MSK: warm, well perfused, absent DP pulses bilaterally, no
peripheral edema  
Neuro: Good grip strength bilaterally. Moving lower extremities
spontaneously. 
 
Pertinent Results:
ADMISSION LABS
___ 02:10AM BLOOD WBC-19.3* RBC-3.86* Hgb-10.9* Hct-32.2* 
MCV-83 MCH-28.2 MCHC-33.9 RDW-13.2 RDWSD-39.9 Plt ___
___ 02:10AM BLOOD ___ PTT-25.7 ___
___ 02:10AM BLOOD Glucose-329* UreaN-19 Creat-0.9 Na-123* 
K-4.2 Cl-87* HCO3-22 AnGap-14
___ 02:10AM BLOOD ALT-119* AST-88* LD(LDH)-214 AlkPhos-111* 
TotBili-0.6
___ 06:50AM BLOOD Calcium-8.7 Phos-2.4* Mg-1.7
___ 07:02AM BLOOD Na-125*

DISCHARGE LABS
___ 04:26AM BLOOD WBC-8.1 RBC-3.77* Hgb-10.5* Hct-31.0* 
MCV-82 MCH-27.9 MCHC-33.9 RDW-13.4 RDWSD-40.2 Plt ___
___ 04:26AM BLOOD Glucose-205* UreaN-10 Creat-0.7 Na-137 
K-3.9 Cl-97 HCO3-25 AnGap-15

MICROBIOLOGY
Blood Culture ___:
Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

Urine Culture ___
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

Blood Culture, Routine (Final ___:    NO GROWTH. 

 Blood Culture, Routine (Pending):    No growth to date. 

IMAGING/REPORTS

CXR ___:
No pneumonia.
 
Possible, acute bronchitis.

CT Head WO Contrast ___:
1. No acute intracranial findings.
2. 5 cm cystic/CSF density lesion at the cerebral midline, 
splaying the
lateral ventricles, most consistent with a large cavum velum 
interpositum. 
There is no associated hydrocephalus.

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with HTN, DMII, and 
dementia who initially presented with fevers and altered mental 
status, found to have E. Coli UTI and E. coli bacteremia 
initially started on ceftazidime subsequently transitioned to 
ciprofloxacin to complete 2 week course through ___, also 
presenting with hyponatremia which corrected with IVF 
administration and holding home clorthalidone. 

#E. Coli Bacteremia
#E. Coli UTI - Patient initially presented with fevers and AMS, 
was found to
have E. Coli UTI and E. Coli bacteremia. She was initially 
started on ceftazidime, was found to have cipro sensitive 
cultures subsequently transitioned to ciprofloxacin 500 BID, to 
complete a 2-week total course of antibiotics, to end on 
___.

#Toxic-metabolic encephalopathy superimposed on likely mild
chronic dementia - With history of likely mild chronic dementia, 
presented with altered mental status likely in setting of UTI 
per above. After initiation of antibiotics, altered mental 
status had improved, and prior to discharge was at baseline. 

#Hyponatremia - Initially presented with hyponatremia Na 123 on 
admission. Was likely hypovolemic related to preceding diarrhea 
in early ___, responded to fluids at an OSH in ___ at that time, 
however with likely worsening in the setting of sepsis per 
above. During this hospitalization she received several liters 
IVF with resolution of hypoantremia, Na 137 on discharge. 

#HTN - Home anti-hypertensive regimen included chlorthalidone 
25mg PO QD. Chlorthalidone was initially held in the setting of 
sepsis and hyponatremia, and was continued to be held at time of 
discharge. Given her history of diabetes and hypertension while 
holding chlorthalidone, patient was subsequently started on 
lisinopril 5 mg daily. Will need ___ with PCP, with 
electrolyte check in 2 weeks post discharge. 

#T2DM - Home metformin 500mg BID and glipizide 5mg PO BID was 
held during hospitalization and was placed on insulin sliding 
scale. Was subsequently resumed at discharge.

#Abnormal head CT - CT Head was obtained as part of AMS work-up 
showing midline hypodense cystic lesion read as "cavum velum 
interpositum (a developmental anomaly)" by radiology. Per 
radiology this is congenital and since no hydrocephalus was seen 
no ___ was indicated. 

#Recent fall
#Facial bruising - She has ___ bruising from hitting a 
door which precipitated her previous admission. Trauma series 
was negative.

TRANSITIONAL ISSUES
========================
[ ] NEW/CHANGED MEDICATIONS
- Started ciprofloxacin 500mg BID x 14 day total course for E. 
Coli UTI and bacteremia (end date ___
- Started lisinopril 5mg PO QD given hypertension 
- Sopped chlorthalidone given recurrent hyponatremia

[ ] Repeat electrolytes at PCP ___ to follow sodium trend 
and after ACE-I initiation
[ ] Up-titrate lisinopril as indicated
[ ] Incidentally found congenital cystic structure in brain 
consistent with septum vergae cyst vs. cavum velum interpositum 
with no associated hydrocephalus. This is likely just congenital 
and should not cause issues but if her mental status worsens 
consider repeat brain imaging as this could theoretically cause 
hydrocephalus

# Emergency contact: Name of health care proxy: ___ 
Relationship: Son Cell phone: ___ 
# Code: Full Code, confirmed
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Simvastatin 10 mg PO QPM 
4. GlipiZIDE 5 mg PO BID 
5. Chlorthalidone 25 mg PO DAILY 
6. Vitamin D 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
Continue through ___ 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth Twice 
daily Disp #*22 Tablet Refills:*0 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*1 
3.  ___    miscellaneous DAILY 
Dx: Gait instability R26.89
Px: Good
___: 13 months 
RX *walker    Disp #*1 Each Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  GlipiZIDE 5 mg PO BID  
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Simvastatin 10 mg PO QPM  
8.  Vitamin D 400 UNIT PO DAILY  
9. HELD- Chlorthalidone 25 mg PO DAILY  This medication was 
held. Do not restart Chlorthalidone until your doctor tells you 
to restart it

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRRIMARY
- E. Coli UTI
- E. Coli blood stream infection 
- Hyponatremia

SECONDARY
- Failure to thrive
- HTN
- Fall

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of your ___ 
___.

Why did you come to the hospital?
- You initially came to the hospital because of fevers and 
worsening confusion

What happened during your hospitalization?
- You were found to have a UTI and a bacteria in your 
bloodstream, you were started on antibiotics
- You also had several electrolyte abnormalities including low 
sodium, which corrected after receiving fluids

What should you do when you leave the hospital?
- Please take all your medications as prescribed
- ___ with your primary care physician ___ 1 week
- Please keep all of your other scheduled healthcare 
appointments as listed below

Sincerely,

Your ___ Care Team

 
Followup Instructions:
___